US07943748B2
(3) Synthesis of Benzo[b]thiophen-2-yl-(4-bromo-1-methoxy-naphthalen-2-yl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (1.6 M, 6.2 ml, 9.90 mmol) was added dropwise to a solution of benzothiophene (1.33 g, 9.90 mmol) in THF (20 ml) at −78° C. and the reaction mixture was stirred at the same temperature for 10 minutes. To this mixture, a solution of 4-bromo-1-methoxynaphthalene-2-carbaldehyde (2.5 g, 9.43 mmol) in THF (30 ml) was added dropwise at −78° C. The reaction mixture was stirred at the same temperature for two hours, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ether. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (3.12 g, 83%).

reactant | n-butyllithium hexane | 9.90 mmol, 1.6 M, 6.2 ml | CCCCCC.C(CCC)[Li]
reactant | benzothiophene | 9.90 mmol, 1.33 g | S1C=CC2=C1C=CC=C2 | C8H6S
reactant | 4-bromo-1-methoxynaphthalene-2-carbaldehyde | 9.43 mmol, 2.5 g | BrC1=CC(=C(C2=CC=CC=C12)OC)C=O | C12H9BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Benzo[b]thiophen-2-yl-(4-bromo-1-methoxy-naphthalen-2-yl)methanol | 3.12 g, 83% | S1C2=C(C=C1C(O)C1=C(C3=CC=CC=C3C(=C1)Br)OC)C=CC=C2 | C20H15BrO2S
